US04276294
To the suspension of 9.3 g of lithium aluminumhydride in 200 ml of diethyl ether (anhydr.) is added dropwise the solution of 73.3 g of 1-(2-p-chlorophenyl-3-benzofuryl)-4-pelargonylpiperazine in the mixture of 500 ml of diethyl ether and 200 ml of tetrahydrofuran while stirring at 0°. After addition, the suspension is stirred at ambient temperature for 15 hours, then cooled again to 0° and successively combined with 9.3 ml of water, 9.3 ml of 15% aqueous sodium hydroxide and 27.9 ml of water. The suspension is stirred in the ice-bath for 1 hour, filtered and the residue washed with diethyl ether. The filtrate is dried, evaporated, the residue taken up in the minimum amount of isopropanol and the solution acidified with ethereal hydrogen chloride, to yield the 1-(2-p-chlorophenyl-3-benzofuryl)-4-n-nonylpiperazine hydrochloride melting at 268°-270° with decomposition.

reactant | lithium | 9.3 g | [Li] | Li
reactant | 1-(2-p-chlorophenyl-3-benzofuryl)-4-pelargonylpiperazine | 73.3 g | ClC1=CC=C(C=C1)C=1OC2=C(C1N1CCN(CC1)C(CCCCCCCC)=O)C=CC=C2 | C27H33ClN2O2
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 9.3 ml | [OH-].[Na+]
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | water | 27.9 ml | O | H2O
solvent | water | 9.3 ml | O | H2O
product | 1-(2-p-chlorophenyl-3-benzofuryl)-4-n-nonylpiperazine hydrochloride | Cl.ClC1=CC=C(C=C1)C=1OC2=C(C1N1CCN(CC1)CCCCCCCCC)C=CC=C2 | InChI=1S/C27H35ClN2O.ClH/c1-2-3-4-5-6-7-10-17-29-18-20-30(21-19-29)26-24-11-8-9-12-25(24)31-27(26)22-13-15-23(28)16-14-22;/h8-9,11-16H,2-7,10,17-21H2,1H3;1H
